US07893046B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (145 mg) was reacted with N-(4-iodophenyl)-N-(3-methyl-2-butenyl)pyrimidin-2-amine (175 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-((3-methyl-2-butenyl)-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (133 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=1/1) was used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 145 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-iodophenyl)-N-(3-methyl-2-butenyl)pyrimidin-2-amine | 175 mg | IC1=CC=C(C=C1)N(C1=NC=CC=N1)CC=C(C)C | C15H16IN3
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-((3-methyl-2-butenyl)-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 133 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)CC=C(C)C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C28H28Cl2N4O3
